US06716851B2
4-(3,5-Dimethoxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 3,5-dimethoxyaniline (44 mg, 0.290 mmol) similar to Example 117 and isolated as a yellow solid (29 mg, 38%). 1H NMR (DMSO-d6): 10.32 (s, 1H), 9.48-9.46 (m, 1H), 8.76-8.74 (m, 1H), 8.62-8.58 (m, 1H), 7.63-7.58 (m, 1H), 7.14 (s, 1H), 7.06 (s, 2H), 6.32 (s, 1H), 3.80 (s, 6H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 3,5-dimethoxyaniline | 0.290 mmol, 44 mg | COC=1C=C(N)C=C(C1)OC | C8H11NO2
product | 4-(3,5-Dimethoxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride | Cl.COC=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C(C1)OC | InChI=1S/C18H15F3N4O2.ClH/c1-26-13-6-12(7-14(8-13)27-2)23-16-9-15(18(19,20)21)24-17(25-16)11-4-3-5-22-10-11;/h3-10H,1-2H3,(H,23,24,25);1H
